US08283475B2
2-Amino-3-(4-bromo-5,7-dichloro-2H-benzotriazol-2-yl)-2-methylpropionitrile was prepared using a procedure similar to that described in Example 1, part a and b, except starting from 4-bromo-5,7-dichloro-1H-benzotriazole that was prepared along with 4,6-dibromo-5,7-dichloro-1H-benzotriazole using a procedure similar to that described in Example 53 except using 5,7-dichloro-1H-benzotriazole described in Example 15.

reactant | 4-bromo-5,7-dichloro-1H-benzotriazole | BrC1=C(C=C(C=2NN=NC21)Cl)Cl | C6H2BrCl2N3
reactant | 4,6-dibromo-5,7-dichloro-1H-benzotriazole | BrC1=C(C(=C(C=2NN=NC21)Cl)Br)Cl | C6HBr2Cl2N3
reactant | 5,7-dichloro-1H-benzotriazole | ClC1=CC2=C(NN=N2)C(=C1)Cl | C6H3Cl2N3
product | 2-Amino-3-(4-bromo-5,7-dichloro-2H-benzotriazol-2-yl)-2-methylpropionitrile | NC(C#N)(CN1N=C2C(=N1)C(=CC(=C2Br)Cl)Cl)C | C10H8BrCl2N5
